US04374137
2'-Ethoxycarbonylspiro[benzofuran-2(3H),4'(2'H)-isoquinoline]
A solution of 2'-methylspiro[benzofuran-2(3H),4'(2'H)-isoquinoline] (26.1 g) and ethyl chloroformate (12.4 g) is heated under reflux in benzene (275 ml) overnight. The reaction mixture is washed with water (3x), saturated sodium chloride solution and dried over anhydrous magnesium sulfate. After filtering, the solvent is removed to yield 24 g (76%) of product as a solid, mp 65°-75°. A sample is thrice recrystallized from hexane to yield the product, mp 89°-90°.

reactant | 2'-methylspiro[benzofuran-2(3H),4'(2'H)-isoquinoline] | 26.1 g | CN1CC2=CC=CC=C2C2(C1)OC1=C(C2)C=CC=C1 | C17H17NO
reactant | ethyl chloroformate | 12.4 g | ClC(=O)OCC | C3H5ClO2
solvent | benzene | 275 ml | C1=CC=CC=C1 | C6H6
product | 2'-Ethoxycarbonylspiro[benzofuran-2(3H),4'(2'H)-isoquinoline] | 24 g, 76% | C(C)OC(=O)N1CC2=CC=CC=C2C2(C1)OC1=C(C2)C=CC=C1 | C19H19NO3
